US09227963B2
1-[(3-bromotricyclo[3.3.1.13,7]dec-1-yl)methyl]-4-iodo-1H-pyrazole
A mixture of 1-bromo-3-(bromomethyl)-adamantane (1.0 g) and 4-iodopyrazole (0.63 g) in N,N-dimethylformamide (10 mL) was cooled to 0° C. To this solution was added 60% sodium hydride (0.20 g). The solution was stirred at 65° C. overnight. The reaction mixture was partitioned between water and ethyl acetate. The aqueous layer was extracted with additional ethyl acetate twice. The combined organic layers were washed three times with water, washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by flash column chromatography on silica gel eluting with 10% ethyl acetate in hexanes to provide the title compound.

reactant | 1-bromo-3-(bromomethyl)-adamantane | 1.0 g | BrC12CC3(CC(CC(C1)C3)C2)CBr | C11H16Br2
reactant | 4-iodopyrazole | 0.63 g | IC=1C=NNC1 | C3H3IN2
reactant | sodium hydride | 0.20 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-[(3-bromotricyclo[3.3.1.13,7]dec-1-yl)methyl]-4-iodo-1H-pyrazole | BrC12CC3(CC(CC(C1)C3)C2)CN2N=CC(=C2)I | C14H18BrIN2
